US08227492B2
Step 2 Preparation of 4-(2-Methoxy-ethylsulfanyl)-benzoic acid
To a stirred solution of 4-(2-Hydroxy-ethylsulfanyl)-benzoic acid (7 g, 0.0352 mol) in DMF (140 mL) was added Sodium hydride (4.2 g, 0.088 mmol) at 5-10° C. under nitrogen atmosphere. Reaction mixture was stirred for 15 min at 25-30° C. and then Methyl iodide (6.6 mL, 0.1057mol) was added to at 10-15° C. Stirring continued for 3 hr after removing cooling. Reaction mixture was then quenched in aqueous NaOH solution and stirred for 30 min. Aqueous layer was washed with ethyl acetate (200 mL). Aqueous layer was then acidified using dil.HCl. Product obtained was filtered which on drying afforded 4.5 g of desired product in 60% yield.

reactant | 4-(2-Hydroxy-ethylsulfanyl)-benzoic acid | 0.0352 mol, 7 g | OCCSC1=CC=C(C(=O)O)C=C1 | C9H10O3S
reactant | Sodium hydride | 0.088 mmol, 4.2 g | [H-].[Na+]
reactant | Methyl iodide | 0.1057mol, 6.6 mL | CI | CH3I
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
product | 4-(2-Methoxy-ethylsulfanyl)-benzoic acid | 4.5 g, 60% yield | COCCSC1=CC=C(C(=O)O)C=C1 | C10H12O3S
